US08563541B2
Step 2: 5-methyl-1-(tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde
A solution of 4-bromo-5-methyl-1-(tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazole (1.17 g, 3.74 mmol) in THF (13 mL) was cooled to −78° C., then n-BuLi (1.6 M in hexane, 3.7 mL, 6.0 mmol) was added dropwise. The reaction was held at −78° C. for 10 minutes, then DMF (580 μL, 7.5 mmol) was added and the reaction was stirred at −78° C. for 1.5 h. The reaction was quenched at −78° C. by addition of sat'd NH4Cl and ether, the phases were separated and the aqueous phase was washed with ether. The combined organic phase was washed with water, then sat'd NaCl, dried over MgSO4 and reduced to dryness in vacuo to give the crude product, which was used without further purification (1.04 g). 1H NMR (400 MHz, CDCl3): δ 10.0 (s, 1H), 5.41 (m, 1H), 4.00 (m, 1H), 3.66 (m, 1H), 2.68 (s, 3H), 2.41 (m, 1H), 2.17 (m, 1H), 2.00 (m, 1H), 1.69 (m, 3H).

reactant | 4-bromo-5-methyl-1-(tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazole | 3.74 mmol, 1.17 g | BrC=1C(=NN(C1C)C1OCCCC1)C(F)(F)F | C10H12BrF3N2O
reactant | n-BuLi | 6.0 mmol, 1.6 M, 3.7 mL | [Li]CCCC
reactant | DMF | 7.5 mmol, 580 μL | CN(C)C=O | C3H7NO
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 5-methyl-1-(tetrahydro-2H-pyran-2-yl)-3-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde | CC1=C(C(=NN1C1OCCCC1)C(F)(F)F)C=O | C11H13F3N2O2
